US08975254B2
a) 2-(Methoxycarbonylamino)thiazole-4-carboxylic acid
Methyl 2-aminothiazole-4-carboxylate (1.0 g, 6.32 mmol) was dissolved in dry pyridine and methyl chloroformate (0.733 ml, 9.48 mmol) was added slowly in RT. The reaction mixture was stirred at RT overnight and evaporated to dryness. The evaporation residue was dissolved in dry THF/methanol (9:1) mixture, 1M lithium hydroxide (3.50 ml, 3.50 mmol) was added and the reaction mixture was stirred for 4 h in RT. 1M litium hydroxide (2.33 ml, 2.33 mmol) was added and the mixture was stirred overnight and evaporated to dryness. DCM was added and pH was adjusted to 3. The product was filtered and dried in vacuum. Yield 76%. 1H-NMR (400 MHz; DMSO-d6): δ 3.75 (s, 3H), 7.95 (s, 1H), 12.05 (s, 1H), 12.76 (bs, 1H).

reactant | Methyl 2-aminothiazole-4-carboxylate | 6.32 mmol, 1.0 g | NC=1SC=C(N1)C(=O)OC | C5H6N2O2S
reactant | methyl chloroformate | 9.48 mmol, 0.733 ml | ClC(=O)OC | C2H3ClO2
reactant | lithium hydroxide | 3.50 mmol, 1M, 3.50 ml | [OH-].[Li+]
reactant | litium hydroxide | 2.33 mmol, 1M, 2.33 ml | [OH-].[Li+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | THF methanol | C1CCOC1.CO
product | 2-(Methoxycarbonylamino)thiazole-4-carboxylic acid | Yield 76% | COC(=O)NC=1SC=C(N1)C(=O)O | C6H6N2O4S
